US05541343
(3R, 5S)-3-Allyl-5-[[trans-4-(4-cyanophenyl)cyclohexyl)oxymethyl]-1- (3-phenylpropyl)-2-pyrrolidinone
0.73 g of trans-4-(4-cyanophenyl)cyclohexanol, 2.8 g of (3R,5S)-3-allyl-5-[(methanesulphonyl)oxymethyl]-1-(3-phenylpropyl)-2-pyrrolidinone, 2.5 ml of 60% aqueous potassium hydroxide solution and 0.3 g of polyethyleneglycol-750 monomethylether (bound to polystyrene-1% divinylbenzene) are stirred for 24 hours at 45° C. Ice and water are added to the mixture, it is acidified with hydrochloric acid and extracted with ethyl acetate. The organic phase is dried with sodium sulphate, concentrated by evaporation and the residue is chromatographed over a silica gel column with petroleum ether/ethyl acetate (2:1). 0.4 g (24% of theory) of product are obtained. Rf value: 0.61 (silica gel; petroleum ether/ethyl acetate 12:1) Calculated: C 78.91 H 7.95 N 6.14 Found: 78.88 8.13 6.10

reactant | trans-4-(4-cyanophenyl)cyclohexanol | 0.73 g | C(#N)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)O | C13H15NO
reactant | (3R,5S)-3-allyl-5-[(methanesulphonyl)oxymethyl]-1-(3-phenylpropyl)-2-pyrrolidinone | 2.8 g | C(C=C)[C@H]1C(N([C@@H](C1)COS(=O)(=O)C)CCCC1=CC=CC=C1)=O | C18H25NO4S
reactant | potassium hydroxide | 2.5 ml | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | (3R, 5S)-3-Allyl-5-[[trans-4-(4-cyanophenyl)cyclohexyl)oxymethyl]-1- (3-phenylpropyl)-2-pyrrolidinone | C(C=C)[C@H]1C(N([C@@H](C1)CO[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C#N)CCCC1=CC=CC=C1)=O | C30H36N2O2
